US07566803B2
E 1-(4-{1-Ethyl-1-[4-(1H-tetrazol-5-yl)-phenyl]-propyl}-2-methyl-phenoxy)-3,3-dimethyl-butan-2-one
To a mixture of 4-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzonitrile (0.50 g, 1.32 mmol), and DMF (5 mL) is added NaN3 (0.26 g, 3.95 mmol) and Et3N.HCl (0.54 g, 3.95 mmol). The slurry is heated at 110° C. overnight. The slurry is diluted with EtOAc (50 mL), washed with 1M HCl (40 mL) water (40 mL), brine (40 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (20%-40% [89% EtOAc: 10% MeOH: 1% ACOH] gradient) to furnish the title compound (0.37 g, 0.88 mmol, 66%).

reactant | 4-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzonitrile | 1.32 mmol, 0.50 g | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC=C(C#N)C=C1)C)=O)(C)C | C25H31NO2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | NaN3 | 3.95 mmol, 0.26 g | [N-]=[N+]=[N-].[Na+]
reactant | Et3N.HCl | 3.95 mmol, 0.54 g | N(CC)(CC)CC.Cl
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(4-{1-Ethyl-1-[4-(1H-tetrazol-5-yl)-phenyl]-propyl}-2-methyl-phenoxy)-3,3-dimethyl-butan-2-one | 0.88 mmol, 0.37 g, 66% | C(C)C(CC)(C1=CC=C(C=C1)C1=NN=NN1)C1=CC(=C(OCC(C(C)(C)C)=O)C=C1)C | C25H32N4O2
